US07727985B2
6,6-dimethyl-4-[-2-(4-methyl-piperazin-1-yl)-2-oxo-ethyl]-morpholine-3-carboxylic acid (6-chloro-9H-beta-carbolin-8-yl)-amide
The desired compound was prepared using [5-(6-Chloro-9H-beta-carbolin-8-ylcarbamoyl)-2,2-dimethyl-morpholin-4-yl]-acetic acid and 1-methyl piperazine following Method F in 12% yield.

reactant | [5-(6-Chloro-9H-beta-carbolin-8-ylcarbamoyl)-2,2-dimethyl-morpholin-4-yl]-acetic acid | ClC=1C=C2C=3C=CN=CC3NC2=C(C1)NC(=O)C1COC(CN1CC(=O)O)(C)C | C20H21ClN4O4
reactant | 1-methyl piperazine | CN1CCNCC1 | C5H12N2
product | 6,6-dimethyl-4-[-2-(4-methyl-piperazin-1-yl)-2-oxo-ethyl]-morpholine-3-carboxylic acid (6-chloro-9H-beta-carbolin-8-yl)-amide | 12% yield | ClC=1C=C2C=3C=CN=CC3NC2=C(C1)NC(=O)C1N(CC(OC1)(C)C)CC(=O)N1CCN(CC1)C | C25H31ClN6O3
